US04017503
A. 2-(2-n-butoxyethoxy)ethyl chloroformate
24.3 G. (150 mmoles) of 2-(2-n-butoxyethoxy)ethanol is added dropwise with stirring to 250 ml. (290 mmoles) of a 12.5% phosgene solution in benzene, cooled in an ice bath and protected from moisture. The addition is carried out over a period of approximately 1 1/2 hours and stirring is continued in an ice bath for 2 hours. The solution is allowed to warm to room temperature and stirred overnight. Nitrogen is passed through the solution for several hours to remove excess phosgene and excess HCl. The solvent is removed in vacuo affording 32.9 g. of a colorless oil. The infrared spectrum revealed a strong carbonyl absorption and no hydroxy absorption. The oil is used without any further purification in the next step.

reactant | 2-(2-n-butoxyethoxy)ethanol | 150 mmoles | C(CCC)OCCOCCO | C8H18O3
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-(2-n-butoxyethoxy)ethyl chloroformate | ClC(=O)OCCOCCOCCCC | C9H17ClO4
